US07223778B2
10% Pd/C (0.1 g) is added to a solution of 2-ethyl-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-3-nitro-pyridine (0.3 g, 0.84 mmol) in ethanol (10 mL). The mixture is hydrogenated at a pressure of 50 psi for 4 hours. The mixture is filtered through celite and evaporated to dryness under reduced pressure to give 2-ethyl-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-ylamine as a yellow solid which is used without further purification TLC Rf 0.30 (elution with 5% methanol-methylene chloride).

reactant | 2-ethyl-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-3-nitro-pyridine | 0.84 mmol, 0.3 g | C(C)C1=NC(=C(C=C1[N+](=O)[O-])C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C16H15F3N2O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 2-ethyl-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-ylamine | C(C)C1=NC(=C(C=C1N)C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C16H17F3N2O2
